datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].COc1ccc(N)cc1C[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.COc1ccc(N)cc1C[NH2+:10][H:20] 10=20;20,21=21",
"CCCC[NH2+]CC(=O)[O:21][H:20].CCc1c([O-:10])nn(-c2ccccc2)c1C>>CCCC[NH2+]CC(=O)[O-:21].CCc1c([O:10][H:20])nn(-c2ccccc2)c1C 10=20;20,21=21",
"Cc1ccc2ccc([O:21][H:20])cc2c1.O=C([O-])c1cc2cc(Cn3cc[n:10]c3)ccc2s1>>Cc1ccc2ccc([O-:21])cc2c1.O=C([O-])c1cc2cc(Cn3cc[n+:10]([H:20])c3)ccc2s1 10=20;20,21=21",
"C[NH+](C)Cc1cc([N+](=O)[O-])ccc1[O:21][H:20].c1cc([NH2:10])c2[nH]ncc2c1>>C[NH+](C)Cc1cc([N+](=O)[O-])ccc1[O-:21].c1cc([NH2+:10][H:20])c2[nH]ncc2c1 10=20;20,21=21",
"COc1ccc2[nH]cc(CC(C)[NH2:10])c2c1.Clc1ccc([O:21][H:20])cc1Cl>>COc1ccc2[nH]cc(CC(C)[NH2+:10][H:20])c2c1.Clc1ccc([O-:21])cc1Cl 10=20;20,21=21",
"CC1=C([O:21][H:20])C(=O)C=CC=C1.CC[NH+](CC)CCCC(C)Nc1cc(OC)cc2ccc[n:10]c12>>CC1=C([O-:21])C(=O)C=CC=C1.CC[NH+](CC)CCCC(C)Nc1cc(OC)cc2ccc[n+:10]([H:20])c12 10=20;20,21=21",
"CN1C=NC=C(c2ccccc2)C1=[O:10].[NH3+]C(Cc1n[nH]c2ccccc12)C(=O)[O:21][H:20]>>CN1C=NC=C(c2ccccc2)C1=[O+:10][H:20].[NH3+]C(Cc1n[nH]c2ccccc12)C(=O)[O-:21] 10=20;20,21=21",
"Cc1n[n+:21]([H:20])c2c(c1C)CCCC2.O=C([C+]1C=CC=CC=C1)[O-:10]>>Cc1n[n:21]c2c(c1C)CCCC2.O=C([C+]1C=CC=CC=C1)[O:10][H:20] 10=20;20,21=21",
"O=C(CSCc1ccccc1)[O-:10].O=[N+]([O-])[N-]c1nnn[n:21]1[H:20]>>O=C(CSCc1ccccc1)[O:10][H:20].O=[N+]([O-])[N-]c1nnn[n-:21]1 10=20;20,21=21",
"NCCC[NH2:10].O=C(O)c1cc(O)c(O)c(C(=O)[O:21][H:20])[o+]1>>NCCC[NH2+:10][H:20].O=C(O)c1cc(O)c(O)c(C(=O)[O-:21])[o+]1 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.[NH3+]CCc1ccccc1[O-:10]>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.[NH3+]CCc1ccccc1[O:10][H:20] 10=20;20,21=21",
"O=P([O-])(C([NH2+]Cc1ccccn1)c1ccccc1O)[O-:10].SCc1[nH]cc[n+:21]1[H:20]>>O=P([O-])(C([NH2+]Cc1ccccn1)c1ccccc1O)[O:10][H:20].SCc1[nH]cc[n:21]1 10=20;20,21=21",
"Cc1cccc(C)c1NC(=O)C[N+:21]1([H:20])CCCCC1.[NH3+]c1cccc(O[C@H]2O[C@@H](C(=O)[O-:10])[C@H](O)[C@@H](O)[C@@H]2O)c1>>Cc1cccc(C)c1NC(=O)C[N:21]1CCCCC1.[NH3+]c1cccc(O[C@H]2O[C@@H](C(=O)[O:10][H:20])[C@H](O)[C@@H](O)[C@@H]2O)c1 10=20;20,21=21",
"COc1cccc(C(=O)N[C@H]2C[C@H]3CC[C@@H](C2)[N+:21]3(Cc2ccccc2)[H:20])c1OC.N#Cc1ccc(C(=O)[O-:10])cc1>>COc1cccc(C(=O)N[C@H]2C[C@H]3CC[C@@H](C2)[N:21]3Cc2ccccc2)c1OC.N#Cc1ccc(C(=O)[O:10][H:20])cc1 10=20;20,21=21",
"[H:20][NH+:21]1CCCCC1.C[N+]1=CC=C(C=C1)[CH-:10]S(=O)(=O)C2=CC=CC=C2>>[H:20][CH:10](C1=CC=[N+](C=C1)C)S(=O)(=O)C2=CC=CC=C2.C1CC[NH:21]CC1 10=20;20,21=21",
"CC(Cc1ccccc1)[NH2:10].O=[N+]([O-])c1ccc(B(O)[O:21][H:20])cc1>>CC(Cc1ccccc1)[NH2+:10][H:20].O=[N+]([O-])c1ccc(B(O)[O-:21])cc1 10=20;20,21=21",
"O=[N+]([O-])c1cccc2cccc([NH2:10])c12.[O-]c1[nH+]c[n+:21]([H:20])cc1O>>O=[N+]([O-])c1cccc2cccc([NH2+:10][H:20])c12.[O-]c1[nH+]c[n:21]cc1O 10=20;20,21=21",
"CCCNC(=O)C(Cc1c[nH]cn1)NC(=O)c1cccc(CNCC[NH2:10])n1.O=C1NC=C(SSC2=CNC(=O)[N:21]([H:20])C2=O)C(=O)N1>>CCCNC(=O)C(Cc1c[nH]cn1)NC(=O)c1cccc(CNCC[NH2+:10][H:20])n1.O=C1NC=C(SSC2=CNC(=O)[N-:21]C2=O)C(=O)N1 10=20;20,21=21",
"Brc1cccc([NH2:10])c1.C[NH2+][C@H]1C[C@@H]1[NH+:21](C)[H:20]>>Brc1cccc([NH2+:10][H:20])c1.C[NH2+][C@H]1C[C@@H]1[NH:21]C 10=20;20,21=21",
"C[NH+](C)Cc1cc(C(C)(C)C)cc(C[NH+](C)C)c1[O:21][H:20].O=C([O-])C(CO)[NH2+]Cc1cc([N+](=O)[O-])ccc1[O-:10]>>C[NH+](C)Cc1cc(C(C)(C)C)cc(C[NH+](C)C)c1[O-:21].O=C([O-])C(CO)[NH2+]Cc1cc([N+](=O)[O-])ccc1[O:10][H:20] 10=20;20,21=21",
"CC(CC(O)(c1ccccc1)c1ccccc1)[N+:21]1([H:20])CCCCC1.CCc1cc[n:10]c2c1ccc1cccnc12>>CC(CC(O)(c1ccccc1)c1ccccc1)[N:21]1CCCCC1.CCc1cc[n+:10]([H:20])c2c1ccc1cccnc12 10=20;20,21=21",
"C[N:10]1CCc2cccc3c2C1Cc1ccc(O)c(O)c1-3.Cc1ccc(C(=O)[O:21][H:20])c(I)c1>>C[N+:10]1([H:20])CCc2cccc3c2C1Cc1ccc(O)c(O)c1-3.Cc1ccc(C(=O)[O-:21])c(I)c1 10=20;20,21=21",
"CC[N+:21](CC)(c1ccc(C)cc1)[H:20].C[N:10](C)CC(P(=O)([O-])[O-])P(=O)([O-])[O-]>>CC[N:21](CC)c1ccc(C)cc1.C[N+:10](C)(CC(P(=O)([O-])[O-])P(=O)([O-])[O-])[H:20] 10=20;20,21=21",
"CC(C)N(C(=S)[S:21][H:20])C(C)C.C[NH+](C)CCNCC[NH2:10]>>CC(C)N(C(=S)[S-:21])C(C)C.C[NH+](C)CCNCC[NH2+:10][H:20] 10=20;20,21=21",
"Cc1[nH]c[n+:21]([H:20])c1C.Nc1nc([O-])[n:10]c2nc[nH]c12>>Cc1[nH]c[n:21]c1C.Nc1nc([O-])[n+:10]([H:20])c2nc[nH]c12 10=20;20,21=21",
"Cc1ccc2c(c1)sc(c1ccc([N:10](C)C)cc1)[n+]2C.Clc1cc2ccc[n+:21]([H:20])c2c2ncccc12>>Cc1ccc2c(c1)sc(c1ccc([N+:10](C)(C)[H:20])cc1)[n+]2C.Clc1cc2ccc[n:21]c2c2ncccc12 10=20;20,21=21",
"CCC(C)(C)[NH:10]C1CCCCC1.O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20]>>CCC(C)(C)[NH+:10](C1CCCCC1)[H:20].O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C([O-])CCC#CC#CCC[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])CCC#CC#CCC[NH2+:10][H:20] 10=20;20,21=21",
"CCc1c(-c2ccccc2)nn(C2CC[N+:21](C)([H:20])CC2)c1[O-].O=[N+]([O-])c1cccc([N-:10]S(=O)(=O)c2ccccc2)c1>>CCc1c(-c2ccccc2)nn(C2CC[N:21](C)CC2)c1[O-].O=[N+]([O-])c1cccc([N:10](S(=O)(=O)c2ccccc2)[H:20])c1 10=20;20,21=21",
